US04447439
A solution of bromine (1.48 g) in glacial acetic acid (3 ml) was added dropwise with stirring to a solution of 1-methyl-4-piperidyl 1,2-benzisoxazole-3-acetate hydrobromide (3.0 g) in glacial acetic acid (6 ml). After the reaction mixture was stirred for 40 minutes at 60° C., it was diluted with water (100 ml) and extracted with two 100-ml portions of chloroform. The chloroform solution was dried over anhydrous sodium sulfate and evaporated to give crude 1-methyl-4-piperidyl 2-bromo-2-(1,2-benzisoxazol-3-yl)acetate hydrobromide (3.2 g). The hydrobromide thus obtained was dissolved in chloroform (15 ml) and thereto was added heptamethyleneimine (4.5 ml). The resulting mixture was stirred overnight at room temperature and evaporated in vacuo to give a residue, to which water (50 ml) was added. The resulting mixture was extracted with two 100-ml portions of toluene. The toluene layer was extracted with 5% hydrochloric acid (70 ml). The aqueous layer was made alkaline with aqueous ammonia solution and extracted with toluene. The toluene layer was dried over anhydrous sodium sulfate and evaporated in vacuo to give an oily residue (2.25 g). The residue and oxalic acid (0.74 g) were dissolved in ethanol (10 ml). The solution was concentrated in vacuo to about a half volume. To the residue was added diethyl ether until it became turbid. The crystals precipitated were collected by filtration and recrystallized from ethanol-diethyl ether to give 1-methyl-4-piperidyl 2-heptamethyleneimino-2-(1,2-benzisoxazol-3-yl)acetate oxalate (2.41 g), m.p. 170°-173° C.

reactant | bromine | 1.48 g | BrBr | Br2
reactant | 1-methyl-4-piperidyl 1,2-benzisoxazole-3-acetate hydrobromide | 3.0 g | Br.O1N=C(C2=C1C=CC=C2)CC(=O)OC2CCN(CC2)C
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 1-methyl-4-piperidyl 2-bromo-2-(1,2-benzisoxazol-3-yl)acetate hydrobromide | 3.2 g | Br.BrC(C(=O)OC1CCN(CC1)C)C1=NOC2=C1C=CC=C2 | InChI=1S/C15H17BrN2O3.BrH/c1-18-8-6-10(7-9-18)20-15(19)13(16)14-11-4-2-3-5-12(11)21-17-14;/h2-5,10,13H,6-9H2,1H3;1H
